US05213606
Preparation of 2-[p-(Benzyloxy)phenoxy]propionaldehyde
A 1.5 molar solution of diisobutylaluminum hydride in toluene (138 mL, 0.207 mol) is added dropwise to a mixture of methyl 2-[p-(benzyloxy)phenoxy]propionate (56.4 g, 0.197 mol) in toluene at -65° C. under a nitrogen atmosphere. The reaction mixture is stirred at -65° C. for 5 hours. Acetic acid (70 mL) is added dropwise and the reaction mixture is warmed to room temperature, diluted with hexanes, washed with 10% hydrochloric acid solution and water, dried and concentrated in vacuo to obtain an oil. Flash chromatography of the oil using silica gel and eluting with a 1:1 methylene chloride/hexanes solution gives the title product as a white solid (21.44 g, mp 50°-51° C.).

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-[p-(benzyloxy)phenoxy]propionate | 0.197 mol, 56.4 g | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C17H18O4
reactant | Acetic acid | 70 mL | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.207 mol, 138 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[p-(Benzyloxy)phenoxy]propionaldehyde | 21.44 g | C(C1=CC=CC=C1)OC1=CC=C(OC(C=O)C)C=C1 | C16H16O3
